US05736568
A mixture of 2-hydroxynaphthalene (20.18 g), N,N,N',N'-tetramethyldiaminomethane (19.10 ml) and 1,4-dioxane (200 ml) was heated on a steam bath for 24 hours and then evaporated to dryness under reduced pressure. The residue was dissolved in 2M hydrochloric acid and washed with ethyl acetate, neutralised with concentrated sodium hydroxide solution and extracted with dichloromethane to give a solid which was recrystallised from petroleum ether, b.p. 60°-80° C. to give 2-hydroxy-1-(dimethylaminomethyl)naphthalene, m.p. 79°-80° C.

reactant | 2-hydroxynaphthalene | 20.18 g | OC1=CC2=CC=CC=C2C=C1 | C10H8O
reactant | N,N,N',N'-tetramethyldiaminomethane | 19.10 ml | CN(C)CN(C)C | C5H14N2
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2-hydroxy-1-(dimethylaminomethyl)naphthalene | OC1=C(C2=CC=CC=C2C=C1)CN(C)C | C13H15NO
